US07528147B2
[2-(5,6-Dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](1-methylpiperid-4-yl)amine is prepared as described in Example 179a starting with 0.07 g of [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](1-methylpiperid-4-yl)amine instead of the [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine used in Example 179a and 0.48 cm3 of 5N potassium hydroxide. 0.042 g of [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](1-methylpiperid-4-yl)amine is obtained, the characteristics of which are as follows:

reactant | [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](1-methylpiperid-4-yl)amine | 0.07 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CNC2CCN(CC2)C)N1S(=O)(=O)C1=CC=C(C=C1)C | C32H37N5O4S
reactant | potassium hydroxide | 5N, 0.48 cm3 | [OH-].[K+]
product | [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](1-methylpiperid-4-yl)amine | 0.042 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CNC2CCN(CC2)C)N1 | C25H31N5O2
